US04080323
8-Chloro-4,6-dihydro-1-methyl-6-phenyl-5H-imidazo[1,5-a][1,5]benzodiazepin-5-one
A mixture of 7.2 g (0.022 moles) of 8-chloro-1-methyl-6-phenyl-3,3a,4,6-tetrahydro-5H-imidazo[1,5-a][1,5]benzodiazepin-5-one, 45 g of activated manganese dioxide and 1.5 l. of toluene was stirred and refluxed for 45 minutes. The manganese dioxide was filtered off and washed well with tetrahydrofuran and methylene chloride. The filtrate was evaporated and the residue was crystallized from ethyl acetate to yield end product with mp 276°-278° C.

reactant | 8-chloro-1-methyl-6-phenyl-3,3a,4,6-tetrahydro-5H-imidazo[1,5-a][1,5]benzodiazepin-5-one | 0.022 moles, 7.2 g | ClC=1C=CC2=C(N(C(CC3N2C(=NC3)C)=O)C3=CC=CC=C3)C1 | C18H16ClN3O
catalyst | manganese dioxide | 45 g | [O-2].[O-2].[Mn+4]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 8-Chloro-4,6-dihydro-1-methyl-6-phenyl-5H-imidazo[1,5-a][1,5]benzodiazepin-5-one | ClC=1C=CC2=C(N(C(CC=3N2C(=NC3)C)=O)C3=CC=CC=C3)C1 | C18H14ClN3O
